US08703768B2
Step 1: 2-Methyl-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid methyl ester
A suspension of 5-bromo-2-methylpyrimidine-4-carboxylic acid methyl ester (89.1 mg, 386 μmol), 5-aminopyrimidine (55.0 mg, 578 μmo) and potassium phosphate tribasic (115 mg, 540 μmol) in toluene (3 mL) was evacuated and flushed with argon. 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos; 73.6 mg, 127 μmol) and tris(dibenzylideneacetone)-dipalladium(0) chloroform adduct (39.9 mg, 38.6 μmol) were added and the reaction mixture was stirred at 120° C. for 16 h. The reaction mixture was poured into ethyl acetate (50 mL) and extracted with water. The organic phase was washed brine and the aqueous layers were back-extracted with ethyl acetate. The organic layers were dried and the solvent was removed. The product was obtained after silica gel chromatography using a heptane/ethyl acetate gradient as light yellow solid (55 mg, 58%).

reactant | 5-bromo-2-methylpyrimidine-4-carboxylic acid methyl ester | 386 μmol, 89.1 mg | COC(=O)C1=NC(=NC=C1Br)C | C7H7BrN2O2
reactant | 5-aminopyrimidine | 55.0 mg | NC=1C=NC=NC1 | C4H5N3
reactant | potassium phosphate tribasic | 540 μmol, 115 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene | 127 μmol, 73.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium(0) chloroform adduct | 38.6 μmol, 39.9 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | heptane ethyl acetate | 55 mg | CCCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC=C1NC=1C=NC=NC1)C | C11H11N5O2
